* Z:\mnt\spice-netlists\LT3681.asc
L1 N005 OUT 4.7µ
C1 OUT 0 22µ
V1 IN 0 24
R1 OUT N008 165K
R2 N008 0 100K
C2 N002 N005 .47µ
C3 N003 0 330p
R3 N004 N003 16.2K
R4 N006 0 60.4K
R5 N007 OUT 100K
R6 IN N001 100K
C4 N001 0 .1µ
XU1 OUT N002 N005 IN N001 N007 OUT N008 N004 N006 0 N005 0 LT3681
Rload OUT 0 1.65
.tran 1m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
* LT3681 - 2A, 36V Switching Regulator with Integrated Power Schottky Diode\nInput: 24V       Output: 3.3V@2A
.lib LT3681.sub
.backanno
.end
